US06420409B1
A solution of 2.0 M lithium diisopropylamide in heptane/tetrahydrofuran/ethylbenzene (100 ml) was slowly added dropwise to a solution of N-t-butylmethanesulfonamide (15.1 g) in tetrahydrofuran (100 ml) under nitrogen atmosphere taking about 1 hour at −50 to −20° C. After stirring for 1 hour at 0° C. and cooling to −50° C., (R)-1-methyloxethane (8.51 g) was added dropwise thereto. After stirring for 5 days at room temperature, the solution was extracted with water and ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluate: hexane/ethyl acetate=½) to obtain crude (R)-N-t-butyl-4-hydroxy-1-pentanesulfonamide (6.6 g) as solid. This solid was dissolved by adding chloroform and concentrated under reduced pressure. The residue thus obtained was crystallized by adding diethyl ether. The crystals were separated by filtration and dried under reduced pressure to obtain (R)-N-t-butyl-4-hydroxy-1-pentanesulfonamide (3.39 g) as white crystals.

reactant | lithium diisopropylamide | 2.0 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-t-butylmethanesulfonamide | 15.1 g | C(C)(C)(C)NS(=O)(=O)C | C5H13NO2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | heptane tetrahydrofuran ethylbenzene | 100 ml | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (R)-N-t-butyl-4-hydroxy-1-pentanesulfonamide | 3.39 g | C(C)(C)(C)NS(=O)(=O)CCC[C@@H](C)O | C9H21NO3S
